US06342636B1
Synthesis of 1-naphthylglycolic acid
Under argon atmosphere distilled 1,4-dioxane (100 mL) and distilled water (100 mL) were charged in a two necked-flask in an ice bath. To the flask 1-naphthaldehyde (15.6 g, 0.1 mol), lithium chloride (8.48 g, 0.2 mol) and potassium hydroxide (22.4 g, 0.4 mol) were added. After stirring at 0° C. for 5 minutes, bromoform (25.2 g, 0.1 mol) was added, and stirring was continued for a further 1 hour at the same temperature. Completion of the reaction was ascertained by TLC, and then, water (100 mL) was added to the reaction mixture. After rinsing three times with ether (each 70 mL), pH of the aqueous phase was decreased to 2 with conc. hydrochloric acid under ice cooling. The aqueous phase was subjected to extraction of five times with ether (each 100 mL), and the organic phase thus formed was rinsed once with saturated sodium chloride solution and once with distilled water. The organic phase was dried over anhydrous magnesium sulfate (80 g) and the solvent was distilled off under reduced pressure. The residue was dried under vacuum, and 16.0 g (yield: 79%) of the target compound was obtained. The product, without being purified, was used as the material for optical resolution described below.

reactant | 1-naphthaldehyde | 0.1 mol, 15.6 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | lithium chloride | 0.2 mol, 8.48 g | [Cl-].[Li+]
reactant | potassium hydroxide | 0.4 mol, 22.4 g | [OH-].[K+]
reactant | bromoform | 0.1 mol, 25.2 g | C(Br)(Br)Br | CHBr3
reactant | water | 100 mL | O | H2O
product | 1-naphthylglycolic acid | 16.0 g, yield: 79% | C1(=CC=CC2=CC=CC=C12)C(C(=O)O)O | C12H10O3
